US05561147
Synthesis of 4-(Phthalimidomethyloxy)pyridine
To a solution of 4.76 g (50 mmol) of 4-hydroxypyridine and 10.76 g (55 mmol) of N-chloromethylphthalimide in 80 ml of DME, 8.23 ml (55 mmol) of 1,8-diazabicyclo[5,4,0]-2-undecene was added. The mixture was stirred at room temperature for 2 hours. After the solvent was distilled off, the reaction mixture was poured into water and extracted with ethyl acetate. The precipitate was filtered off. The aqueous layer was further extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain 2.67 g of the desired compound (yield: 21%, colorless crystals).

reactant | 4-hydroxypyridine | 50 mmol, 4.76 g | OC1=CC=NC=C1 | C5H5NO
reactant | N-chloromethylphthalimide | 55 mmol, 10.76 g | ClCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6ClNO2
solvent | DME | 80 ml | COCCOC | C4H10O2
product | 4-(Phthalimidomethyloxy)pyridine | 2.67 g, yield: 21% | C1(C=2C(C(N1COC1=CC=NC=C1)=O)=CC=CC2)=O | C14H10N2O3
